### ISSUE TITLE
Panel widgets are refreshed when the orange bar progresses

### ISSUE THREAD

**Issue by JovanGerb** [EdAyers/WidgetKit#176]
When using a *panel widget*, the widget repeatedly gets reloaded when the current Lean file is getting processed.

### Minimal example

This example cannot be reproduced on Lean web, but it can be reproduced when using Lean locally (v4.31.0-rc1).
Consider the following panel widget that displays the current time modulo 10 seconds:
```
import ProofWidgets

open Lean Widget Server ProofWidgets

@[server_rpc_method]
def rpc (_ : PanelWidgetProps) : RequestM (RequestTask Html) :=
  RequestM.asTask do return .text s!"current time: {(← IO.monoMsNow) % 10000}"

@[widget_module]
def timeComponent : Component PanelWidgetProps :=
  mk_rpc_widget% rpc

run_meta
  let widget ← WidgetInstance.ofHash timeComponent.javascriptHash (return json% {})
  addPanelWidgetLocal widget

example (n : Nat) : n = n + 0 := by
  skip -- put your cursor here
  rfl

run_meta IO.sleep 2000
theorem foo0 : 0 = 0 := rfl
run_meta IO.sleep 2000
theorem foo1 : 0 = 0 := rfl
run_meta IO.sleep 2000
theorem foo2 : 0 = 0 := rfl
run_meta IO.sleep 2000
theorem foo3 : 0 = 0 := rfl
run_meta IO.sleep 2000
theorem foo4 : 0 = 0 := rfl
run_meta IO.sleep 2000
theorem foo5 : 0 = 0 := rfl
run_meta IO.sleep 2000
theorem foo6 : 0 = 0 := rfl
run_meta IO.sleep 2000
theorem foo7 : 0 = 0 := rfl
run_meta IO.sleep 2000
theorem foo8 : 0 = 0 := rfl
run_meta IO.sleep 2000
theorem foo9 : 0 = 0 := rfl
```
### Expected behaviour
When the cursor is on `skip`, the time given by the widget stays the same as long as the cursor is not moved.
### Actual behaviour
Every 2 seconds, when another `foo` theorem is elaborated, the text of the widget is updated/reloaded, even when not moving the cursor.

**Comment by Vtec234** [comment]
This is an issue with using `lspDiagsHere` as a dep that is compared up to object identity in the infoview (not specific to ProofWidgets).

```lean
import Lean.Widget

open Lean

@[widget_module]
def timeComponent : Widget.Module where
  javascript := "export default function() { return Date.now() % 10000 }"

run_meta
  let widget ← Widget.WidgetInstance.ofHash timeComponent.javascriptHash (return json% {})
  Widget.addPanelWidgetLocal widget

example (n : Nat) : n = n + 0 := by
  skip -- put your cursor here
  rfl

run_meta IO.sleep 2000
theorem foo0 : 0 = 0 := rfl
run_meta IO.sleep 2000
theorem foo1 : 0 = 0 := rfl
run_meta IO.sleep 2000
theorem foo2 : 0 = 0 := rfl
run_meta IO.sleep 2000
theorem foo3 : 0 = 0 := rfl
run_meta IO.sleep 2000
theorem foo4 : 0 = 0 := rfl
run_meta IO.sleep 2000
theorem foo5 : 0 = 0 := rfl
run_meta IO.sleep 2000
theorem foo6 : 0 = 0 := rfl
run_meta IO.sleep 2000
theorem foo7 : 0 = 0 := rfl
run_meta IO.sleep 2000
theorem foo8 : 0 = 0 := rfl
run_meta IO.sleep 2000
```
